US05264430
The 7α-chloro-3-methyl-3-cephem-4-carboxylic acid (10.0 g, 0.0428 mol) was dissolved in methylene chloride (200 ml), and diphenyldiazomethane (10.8 g, 0.0557 mol) dissolved in methylene chloride (50 ml) was added dropwise over 30 minutes. The mixture was stirred at room temperature for two hours. Solvent was removed under reduced pressure and the product was purified over silica column using hexane-ethyl acetate mixture to yield benzhydryl 7α-chloro-3-methyl-3-cephem-4-carboxylate (7.8 g, 45.6%).

reactant | 7α-chloro-3-methyl-3-cephem-4-carboxylic acid | 0.0428 mol, 10.0 g | Cl[C@@H]1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H8ClNO3S
reactant | diphenyldiazomethane | 0.0557 mol, 10.8 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7α-chloro-3-methyl-3-cephem-4-carboxylate | 7.8 g, 45.6% | Cl[C@@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H18ClNO3S
